US04492798
9.25 g (50 mmoles) of phenethyl bromide, 30 ml of t-BuOH, 700 mg (~2 mmoles) of Co2 (CO)8, 80 ml of H2O, 4.8 g (200 mmoles) of LiOH were stirred in a 300 ml autoclave for 24 hours at 70° C. and under 300 psig CO pressure. The reaction mixture was cooled to room temperature, then filtered. The crude cake was rinsed with 20 ml of Et2O to give a pale yellow solid, which was acidified in cooled HCl solution (check by pH paper) and extracted with Et2O. The neutral impurities in the filtrate were extracted with Et2O and discarded; any acidic material left in the acidified filtrate (pH=2 by adding HCl) was extracted with Et2O (3×30 ml). Approximately 74% isolated yield of benzylpyruvic acid identified by both 1H NMR and 13C NMR was obtained from the combined Et2O solution.

reactant | phenethyl bromide | 50 mmoles, 9.25 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | t-BuOH | 30 ml | CC(C)(C)O | C4H10O
reactant | H2O | 80 ml | O | H2O
reactant | LiOH | 200 mmoles, 4.8 g | [Li+].[OH-]
solvent | HCl | Cl | ClH
product | benzylpyruvic acid | C(C1=CC=CC=C1)CC(C(=O)O)=O | C10H10O3
